US04802908
Phenyl (6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)carbamate
A mixture of 3-amino-5-chloro-1-methyl-2(1H)-pyrazinone (11.17 g, 0.070 mol) in anhydrous N,N-dimethylformamide (90 mL) was treated with oil-free sodium hydride (3.4 g, 0.154 mol). After stirring at room temperature for 1 hour, the mixture was cooled with the aid of a dry ice-acetone bath while a solution of diphenyl carbonate (16.49 g, 0.077 mol) in N,N-dimethylformamide (60 mL) was added as rapidly as possible. A wet ice bath was substituted for the dry ice bath, and the reaction mixture was stirred at approximately 0° C. for 3 hours. The mixture was allowed to briefly warm to room temperature, and was then poured into a stirred mixture of ice (350 g), concentrated hydrochloric acid (42 mL); dichloromethane (318 mL), and tetrahydrofuran (32 mL). The layers were separated, and the aqueous layer was extracted with 10:1 dichloromethane-tetrahydrofuran (5×100 mL). The combined organic solutions were dried (Na2SO4), and the solvent was rotary evaporated. After the residue was taken up in toluene, further rotary evaporation left a tan solid. This solid was taken up in dichloromethane, absorbed onto silica gel and then chromatographed using a 5:1 mixture of dichloromethane-ether as eluant. Rotary evaporation of the appropriate fractions left 9.70 g of phenyl (6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)carbamate as a crystalline solid melting at 175°-177° C.

reactant | 3-amino-5-chloro-1-methyl-2(1H)-pyrazinone | 0.070 mol, 11.17 g | NC=1C(N(C=C(N1)Cl)C)=O | C5H6ClN3O
reactant | sodium hydride | 0.154 mol, 3.4 g | [H-].[Na+]
reactant | diphenyl carbonate | 0.077 mol, 16.49 g | C(OC1=CC=CC=C1)(OC1=CC=CC=C1)=O | C13H10O3
reactant | dry ice | C(=O)=O | CO2
reactant | hydrochloric acid | 42 mL | Cl | ClH
solvent | N,N-dimethylformamide | 90 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 32 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 318 mL | ClCCl | CH2Cl2
product | Phenyl (6-chloro-3,4-dihydro-4-methyl-3-oxopyrazin-2-yl)carbamate | ClC1=CN(C(C(=N1)NC(OC1=CC=CC=C1)=O)=O)C | C12H10ClN3O3
